US05162521
Diphenylmethyl 2-[(3R, 4R)-4-[(benzothiazol-2-yl)dithio1-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-2,3-butadienoate (Ib)
Embodiment a: To a solution of 200 mg (0.261 mmol) of diphenylmethyl 2-[(3R, 4R)-4-[(benzothiazol-2yl)dithio]-3-phenoxyacetamido-2-oxo-azetidin-1-yl]3-fluorosulfonyloxy-2-butenoate (XXd) in 2.0 mL of dry dichloromethane at room temperature was added, dropwise, 38.26 μL (0.274 mmol) of triethylamine. The solution was stirred at ambient temperature for 25 min. HPLC indicated disappearance of the starting material and formation of the product (retention time=4.74 min, 2.0 mL/min, 70% acetonitrile: 30% water, reversed phase C-18 column). The resultant solution was poured into water. The organic layer was separated and further washed with brine (10 mL) and 5% HCl solution (10 mL). It was subsequently dried (magnesium sulfate) and concentrated to give 139.09 mg (81%) of the title product as a light brown foam, which was further purified by recrystallization from isopropanol.

reactant | diphenylmethyl 2-[(3R, 4R)-4-[(benzothiazol-2yl)dithio]-3-phenoxyacetamido-2-oxo-azetidin-1-yl]3-fluorosulfonyloxy-2-butenoate | 0.261 mmol, 200 mg | S1C(=NC2=C1C=CC=C2)SS[C@@H]2[C@@H](C(N2C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)=C(C)OS(=O)(=O)F)=O)NC(COC2=CC=CC=C2)=O | C35H28FN3O8S4
reactant | triethylamine | 0.274 mmol, 38.26 μL | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | C(C)#N | C2H3N
reactant | water | O | H2O
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | Diphenylmethyl 2-[(3R, 4R)-4-[(benzothiazol-2-yl)dithio1-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-2,3-butadienoate | 139.09 mg, 81% | S1C(=NC2=C1C=CC=C2)SS[C@@H]2[C@@H](C(N2C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)=C=C)=O)NC(COC2=CC=CC=C2)=O | C35H27N3O5S3
